US07842758B2
4-Dodecyloxy[(trimethylsilyl)ethynyl]benzene
4-(Dodecyloxy)iodobenzene (4.04 g, 1.04×10−2 mol), triphenylphosphine (0.165 g, 6.29×10−4 mol), CuI (0.108 g, 5.67×10−4 mol) and Pd(PPh3)2Cl2 (0.153 g, 2.18×10−4 mol) were dissolved in 40 ml of dry piperidine under N2. (Trimethylsilyl)acetylene (3.00 ml, 2.12×10−2 mol) was added and the mixture was stirred at 50° C. for 6 h under N2. After cooling, the reaction mixture was poured into aq. NH4Cl and extracted with CH2Cl2 (three times). The combined organic layers were washed with aq. NH4Cl, water, and dried over Na2SO4. The crude product was chromatographed on silica gel with 4:1 hexane:CH2Cl2 as the eluent. Yield=3.633 g (97% based on 4.04 g of 4-(dodecyloxy)iodobenzene). 1H NMR (250 MHz, CDCl3): δ 7.39 (d, 2H, J=8.9 Hz, Ph), 6.80 (d, 2H, J=9.0 Hz, Ph), 3.94 (t, 2H, J=6.6 Hz, —OCH2—), 1.77 (quint, 2H, J=6.6 Hz, —OCH2CH2—), 1.17-1.50 (m, 18H, —CH2—), 0.88 (t, 3H, J=6.6 Hz, —CH3), 0.24 (s, 9H, Si—CH3). CI MS m/z: 358.268 (M+) (calcd 358.269).

reactant | 4-(Dodecyloxy)iodobenzene | 1.04×10−2 mol, 4.04 g | C(CCCCCCCCCCC)OC1=CC=C(C=C1)I | C18H29IO
reactant | triphenylphosphine | 6.29×10−4 mol, 0.165 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (Trimethylsilyl)acetylene | 2.12×10−2 mol, 3.00 ml | C[Si](C)(C)C#C | C5H10Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | piperidine | 40 ml | N1CCCCC1 | C5H11N
catalyst | CuI | 5.67×10−4 mol, 0.108 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 2.18×10−4 mol, 0.153 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Dodecyloxy[(trimethylsilyl)ethynyl]benzene | C(CCCCCCCCCCC)OC1=CC=C(C=C1)C#C[Si](C)(C)C | C23H38OSi
